US05342833
To the stirred mixture of 25 g (0.29M) of 3-hydroxy-3-methyl-butyne, 50 ml of anhydrous N,N-dimethyl-formamide and 44.5 g (0.65M) imidazole cooled in an ice-bath was added 50 g (0.33M) tert.butyldimethylsilyl chloride. Stirring in the ice-bath was continued for 15 minutes and then at room temperature overnight. After addition of 250 mg of dimethylaminopyridine, the reaction mixture was heated at 70° C. for two hours and then poured into one liter of cold water. It was then extracted with 5×150 ml of ether. The organic extract was washed with brine, dried over MgSO4 and evaporated to dryness. The crude product was purified by vacuum distillation yielding 3-(tert.butyldimethylsilyl)oxy-3-methyl-butyne.

reactant | 3-hydroxy-3-methyl-butyne | 0.29M, 25 g | OC(C#C)(C)C | C5H8O
reactant | imidazole | 0.65M, 44.5 g | N1C=NC=C1 | C3H4N2
reactant | tert.butyldimethylsilyl chloride | 0.33M, 50 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | dimethylaminopyridine | 250 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | water | one liter | O | H2O
solvent | N,N-dimethyl-formamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-(tert.butyldimethylsilyl)oxy-3-methyl-butyne | C(C)(C)(C)[Si](OC(C#C)(C)C)(C)C | C11H22OSi
